US06376526B1
Trans-(2R,3S)-1-(1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-3-{4-[2-(1methylpyrazol-5-yl)ethenyl]phenyl}butan-2-ol
A stirred solution of (2R,3S)-1-(1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-3-(4-iodophenyl)butan-2-ol (Preparation 12; 0.5 g, 1.1 mmol), 1-methyl-5-vinylpyrazole (Preparation 17; 0.14 g, 1.3 mmol), triethylamine (0.25 ml, 2 mmol), palladium acetate (130 mg, 0.6 mmol) and tri-o-tolylphosphine (340 mg, 1.2 mmol) in acetonitrile (25 ml) was heated under reflux for 1 hour and then evaporated under reduced pressure. The residue was partitioned between ethyl acetate (100 ml) and saturated aqueous sodium bicarbonate solution (50 ml), then the organic phase separated, washed with saturated brine (30 ml), dried (Na2SO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel, using an elution gradient of hexane:propan-2-ol (90:10 to 75:25), to give the title compound (0.31 g) as a white solid, m.p. 81-83° C., after crystallisation from aqueous ethanol. [α]D25 −55° (c=0.1, CH3OH).

reactant | (2R,3S)-1-(1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-3-(4-iodophenyl)butan-2-ol | 1.1 mmol, 0.5 g | N1(N=CN=C1)C[C@]([C@@H](C)C1=CC=C(C=C1)I)(O)C1=C(C=C(C=C1)F)F | C18H16F2IN3O
reactant | 1-methyl-5-vinylpyrazole | 1.3 mmol, 0.14 g | CN1N=CC=C1C=C | C6H8N2
reactant | triethylamine | 2 mmol, 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | tri-o-tolylphosphine | 1.2 mmol, 340 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
catalyst | palladium acetate | 0.6 mmol, 130 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Trans-(2R,3S)-1-(1,2,4-triazol-1-yl)-2-(2,4-difluorophenyl)-3-{4-[2-(1methylpyrazol-5-yl)ethenyl]phenyl}butan-2-ol | 0.31 g | N1(N=CN=C1)C[C@]([C@@H](C)C1=CC=C(C=C1)\C=C\C1=CC=NN1C)(O)C1=C(C=C(C=C1)F)F | C24H23F2N5O
